US05446152
a) Synthesis of 6-chloro-2,3-dihydro-1-methyl-3-[2-(1-pyrrolidinyl)ethyl]-4(1H)-quinazolinone
543 Milligrammes (22.5 mmoles) of 60% sodium hydride are added to 3.50 grammes (12.5 mmoles) of 6-chloro-2,3-dihydro-3-[2-(pyrrolidino)ethyl]-4(1H)-quinazolinone in 25 mlof anhydrous dimethylacetamide and the solution is left at room temperature, in agitation and in an inert gas atmosphere, for 30 minutes. 0.86 Ml (13.8 mmoles) of methyl iodide are slowly dripped and the reactionmixture is kept for 6 hours at room temperature. The reaction mixture is then diluted with water and ice and the product is extracted with ethyl ether and recovered through evaporation of the organic solvent, obtaining an oily substance, with a yield of 14%, presenting the following chemical-physical characteristics:

reactant | sodium hydride | 22.5 mmoles | [H-].[Na+]
reactant | 6-chloro-2,3-dihydro-3-[2-(pyrrolidino)ethyl]-4(1H)-quinazolinone | 12.5 mmoles, 3.50 grammes | ClC=1C=C2C(N(CNC2=CC1)CCN1CCCC1)=O | C14H18ClN3O
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 6-chloro-2,3-dihydro-1-methyl-3-[2-(1-pyrrolidinyl)ethyl]-4(1H)-quinazolinone | yield of 14% | ClC=1C=C2C(N(CN(C2=CC1)C)CCN1CCCC1)=O | C15H20ClN3O
